2148-12-03 08:13:00 Physician Resident Progress Note
Chief Complaint: Intubated
   24 Hour Events:
 EKG - At [**2148-12-2**] 08:50 AM
   Unable to start CVVH due to inability to withdraw from line.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-2**] 02:00 PM
   Vancomycin - [**2148-12-2**] 04:28 PM
   Piperacillin - [**2148-12-3**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-12-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to complete due to intubation
   Flowsheet Data as of  [**2148-12-3**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 93 (64 - 97) bpm
   BP: 128/48(73) {86/37(54) - 171/57(90)} mmHg
   RR: 20 (17 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                  4,082 mL
                                                                  1,645 mL
   PO:
             TF:
   IVF:
                                                                  3,912 mL
                                                                  1,645 mL
   Blood products:
   Total out:
                                                                  1,307 mL
                                                                    275 mL
   Urine:
                                                                    638 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,775 mL
                                                                  1,370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 165 (165 - 165) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/52/127/25/1
   Ve: 6.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   155 K/uL
   7.9 g/dL
   67 mg/dL
   2.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   46 mg/dL
   110 mEq/L
   144 mEq/L
   23.0 %
   10.4 K/uL
        [image002.jpg]
                            [**2148-12-2**]  08:49 AM
                            [**2148-12-2**]  12:06 PM
                            [**2148-12-2**]  12:09 PM
                            [**2148-12-2**]  03:44 PM
                            [**2148-12-2**]  07:02 PM
                            [**2148-12-2**]  07:27 PM
                            [**2148-12-2**]  10:28 PM
                            [**2148-12-2**]  10:50 PM
                            [**2148-12-3**]  04:40 AM
                            [**2148-12-3**]  04:51 AM
   WBC
   10.4
   Hct
   29
   25.0
   27
   23.0
   Plt
   155
   Cr
   3.2
   3.0
   2.8
   2.8
   2.9
   TCO2
   24
   26
   28
   27
   29
   Glucose
   146
   73
   159
   137
   67
   Other labs: PT / PTT / INR:14.7/49.9/1.3, ALT / AST:164/102, Alk Phos /
   T Bili:32/0.5, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:2.1 mmol/L,
   Albumin:4.1 g/dL, LDH:254 IU/L, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   Patient is an 82 year old Vietnamese man w/ hx of DM, HTN, stage 4 CKD
   s/p PEA arrest in the setting of bradycardia, hyerkalemia, currently
   intubated but awake alert.
   # Hypotension: Mr [**Known lastname 4518**] was hypotensive in the CCU, even after his
   hyperkalemia and bradycardia were corrected. He had a high lactate. His
   CT scan included findings of possible pancreatitis (supported by high
   pancreatic enzymes) and colitis (which might be source of high but now
   lower lactate).  His lactate is declining which is reassuring; however,
   his pancreatic enzymes are rising and fluid balance will need to be
   watched closely. Sepsis may have been an underlying issue; cultures are
   pending.
   -- q6h Hct and chem.7 as measures of hydration status in context of
   pancreatitis
   -- BP stable for now
   -- discuss fluid balance and dialysis vs fluid boluses + diuresis with
   renal fellow as necessary; currently putting out urine and holding
   normal blood pressure
   -- vanc/zosyn as empiric treatment for first 48 hours in setting of
   high lactate; cultures pending; hope to narrow coverage or remove it if
   lactate appears to be result of poor perfusion only; renal failure
poor perfusion without infection remains the most economical
   explanation
   # Bradycardia: Mr [**Known lastname 4518**] was transferred to the [**Hospital1 19**] CCU from [**Hospital1 **] originally because of bradycardia refractory to transcutaneous
   pacing attempts. The bradycardia was in the setting of severe
   hyperkalemia, and although he first had a PEA cardiac arrest requiring
   resuscitation, his arrythmias resolved after correction of potassium in
   the [**Hospital1 19**] CCU. Agree with CCU assessment that potassium level is likely
   source of his original bradycardia and likely his syncopal and
   pre-syncopal events described by his family.
   -- correct potassium, follow K q 6 for first 24 hours, q12 thereafter
   if stable
   -- no need for pacing currently, keeping on telemetry and pacer pads
   are available if necessary
   # Hyperkalemia: Patient had failed to get labs checked and kayexelate
   was not producing usual BM. Presented with K of 7.3, and likely
   etiology of patients arrythmia, which had corrected with short term
   interventions. Patient
s symptoms of dizziness, nausea, and vomiting
   likely secondary to uremia/hyperkalemia given timing, though underlying
   infection is a possibility. HD line was placed in CCU and dialysis was
   conducted. Currently a clot in line, RNs are working to resolve; will
   check regular lytes.
   - Patient got CVVH today and this evening
   - hold home kayexalate unless CVVH not avail
   - renal following
   # CKD: Secondary to DM/HTN and being transitioned to HD with ESRD.
   Likely contributing to hyperkalemia [**1-13**] ineffective kayexalate.
   - cont CVVH
   - renal following
   - holding renagel
   # Back Pain: Given elevated lactate and reported complaints of [**9-20**]
   back pain in CCU or prior, concerning for bowel ischemia, pancreatitis,
   or aortic dissection. Patient with adequate DP pulses. CT scan done
   today suggests colitis and pancreatitis. Lactate suggests resolving
   tissue perfusion defect c/w bowel ischemia. Follow lactate closely.
   Likely will need f/u CT scan unless clinical improvement becomes
   obvious; if remaining intubated this may be difficult.
   - follow serial lactate
   - follow cultures
   - follow pancreatic enzymes
   # Respiratory Distress: Patient with agonal breathing on presentation,
   poor oxygenation with large A-a gradient. ?Cerebral component from PEA
   arrest. Oxygenation appears to already be improving.
   - attempt to wean sedation, move to PS to assess pt
s independent
   respiratory drive
   - continue mechanical ventilation
   - CXR in am
   # DM: Patient on glyburide as an outpatient. Patient had glucose of 606
   in CCU with consistent hyperglycemia; may be secondary to pancreatic
   injury.
   - insulin gtt for this acute period, follow total insulin requirements
   ICU Care
   Nutrition: nutrition consult for tube feeds if unable to extubate today
   ICU Care
   Glycemic Control:  [**Name (NI) 1565**], pt has been hypoglycemic.
   Lines:
   Multi Lumen - [**2148-12-2**] 03:20 AM
   Arterial Line - [**2148-12-2**] 03:20 AM
   Dialysis Catheter - [**2148-12-2**] 05:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition:

2148-12-03 08:35:00 Physician Attending Progress Note
Chief Complaint: Syncope, Bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 year old man with PMH of CRI transitioning to HD with recent fistula
   placement. Presented to OSH with 1 day history of malaise. On daily
   kayexalate for hyperkalemia, missed a dose and began to complain of low
   back pain, nausea, had pre-syncope - EMS was called and found him
   vomitting and hypotensive. On arrival to OSH ED was in junctional
   bradycardia with rate to 15. Failed transcutaneous pacing and was
   transfered to [**Hospital1 19**]. On arrival ABG 7.02/43/102. K 7.3 and lactate of
   7.0 -> PEA arrest. Epi + atropine as well as hyper K -> [**Hospital1 4535**].
   Intubated during the code and transferred to the CCU where he was
   initiatiated on CVVH. Also got chest/abd/pelvis CT which showed
   possible ischemic colitis and pancreatiac edema c/w pancreatitis.
   Transfered from CCU to MICU on dopamine but this was rapidly weaned
   off.
   24 Hour Events:
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-2**] 02:00 PM
   Vancomycin - [**2148-12-2**] 04:28 PM
   Piperacillin - [**2148-12-3**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-12-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-3**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 93 (64 - 97) bpm
   BP: 128/48(73) {86/37(54) - 171/57(90)} mmHg
   RR: 20 (17 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                  4,082 mL
                                                                  1,624 mL
   PO:
             TF:
   IVF:
                                                                  3,912 mL
                                                                  1,624 mL
   Blood products:
   Total out:
                                                                  1,307 mL
                                                                    275 mL
   Urine:
                                                                    638 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,775 mL
                                                                  1,349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 165 (165 - 165) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/52/127/25/1
   Ve: 6.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   155 K/uL
   67 mg/dL
   2.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   46 mg/dL
   110 mEq/L
   144 mEq/L
   23.0 %
   10.4 K/uL
        [image002.jpg]
                            [**2148-12-2**]  08:49 AM
                            [**2148-12-2**]  12:06 PM
                            [**2148-12-2**]  12:09 PM
                            [**2148-12-2**]  03:44 PM
                            [**2148-12-2**]  07:02 PM
                            [**2148-12-2**]  07:27 PM
                            [**2148-12-2**]  10:28 PM
                            [**2148-12-2**]  10:50 PM
                            [**2148-12-3**]  04:40 AM
                            [**2148-12-3**]  04:51 AM
   WBC
   10.4
   Hct
   29
   25.0
   27
   23.0
   Plt
   155
   Cr
   3.2
   3.0
   2.8
   2.8
   2.9
   TCO2
   24
   26
   28
   27
   29
   Glucose
   146
   73
   159
   137
   67
   Other labs: PT / PTT / INR:14.7/49.9/1.3, ALT / AST:164/102, Alk Phos /
   T Bili:32/0.5, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:2.1 mmol/L,
   Albumin:4.1 g/dL, LDH:254 IU/L, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   82 year old man s/p apparent hyperkalemic PEA with unclear time until
   [**Name (NI) 4535**]. Making purposeful movements today. Got RRT overnight, now on
   holiday.  Hemodynamics normalized this morning. Plan as per resident
   note. Will need to DC sedation and look to extubate. Currently not
   overbreathing the vent. Reasonable to continue empiric abx for now but
   unclear if there has been a primary abdominal event. Further plans as
   per resident note.
   At the time of signing, patient was extubated. An interpreter was
   present this afternoon during RN assessment. Patient has no specific
   complaints. He appears to be mentating well.
   ICU Care
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Comments: hypoglycemia this am
   Lines:
   Multi Lumen - [**2148-12-2**] 03:20 AM
   Arterial Line - [**2148-12-2**] 03:20 AM
   Dialysis Catheter - [**2148-12-2**] 05:32 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code, Disposition :ICU, Total time spent: 30 minutes,
   Patient is critically ill

2148-12-05 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2148-12-4**] 01:00 PM
   Power PICC- has heparin
 DIALYSIS CATHETER - START [**2148-12-4**] 01:30 PM
   [**12-4**] CT abd/pelvis: no intra/RP bleed; got tunneled line and PICC
   placed
   Patient unable to provide history: Language barrier
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-2**] 02:00 PM
   Vancomycin - [**2148-12-2**] 04:28 PM
   Piperacillin - [**2148-12-4**] 05:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-12-4**] 08:00 AM
   Hydralazine - [**2148-12-5**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 104 (101 - 116) bpm
   BP: 190/65(111) {135/46(78) - 200/73(112)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                  2,561 mL
                                                                     95 mL
   PO:
                                                                    470 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  1,391 mL
                                                                     75 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,845 mL
                                                                  1,190 mL
   Urine:
                                                                  1,845 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    716 mL
                                                                 -1,095 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   8.3 g/dL
   135 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.5 mEq/L
   41 mg/dL
   108 mEq/L
   139 mEq/L
   23.4 %
   6.8 K/uL
        [image002.jpg]
                            [**2148-12-2**]  07:27 PM
                            [**2148-12-2**]  10:28 PM
                            [**2148-12-2**]  10:50 PM
                            [**2148-12-3**]  04:40 AM
                            [**2148-12-3**]  04:51 AM
                            [**2148-12-3**]  09:24 AM
                            [**2148-12-3**]  04:38 PM
                            [**2148-12-4**]  02:51 AM
                            [**2148-12-4**]  03:10 PM
                            [**2148-12-5**]  01:30 AM
   WBC
   10.4
   8.8
   6.8
   Hct
   25.0
   27
   23.0
   22.8
   18.9
   24.2
   23.4
   Plt
   155
   119
   112
   Cr
   2.8
   2.9
   3.0
   2.9
   2.4
   TCO2
   28
   27
   29
   27
   Glucose
   137
   67
   118
   129
   135
   Other labs: PT / PTT / INR:12.1/28.5/1.0, ALT / AST:100/57, Alk Phos /
   T Bili:30/0.6, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.1 g/dL, LDH:246 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Patient is an 82 year old Vietnamese man w/ hx of DM, HTN, stage 4 CKD
   s/p PEA arrest now w/enterococcus UTI, currently stable.
   # HCT drop: in the setting of self d/c of fem line
   - Q 8h HCT
   - active T&S
   - transfuse 1 unit PRBCs
   # Enterococcus UTI
 f/u sensitivities, start Vancomycin IV today,
   narrow per sensitivity data
   # Hypertension
 restarted [**Last Name (un) **] yesterday and persistently hypertensive.
   Received IV hydral overnight.
   - Change to PO hydral
   - avoiding nodal blockade in the setting of recent bradycardia
   # CKD: Secondary to DM/HTN and being transitioned to HD with ESRD.
   Likely contributing to hyperkalemia .
   - renal following
   - holding renagel
   - plan for HD
   # DM: Patient on glyburide as an outpatient.
   - RISS, has had hypoglycemia, continue to monitor w/QID FS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-12-2**] 03:20 AM
   PICC Line - [**2148-12-4**] 01:00 PM
   Dialysis Catheter - [**2148-12-4**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2148-12-06 07:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Piperacillin - [**2148-12-4**] 05:30 AM
   Infusions:
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2148-12-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 104 (99 - 113) bpm
   BP: 168/56(92) {146/46(77) - 218/73(126)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                    773 mL
                                                                    309 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                    753 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    560 mL
   Urine:
                                                                  2,930 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,157 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   150 K/uL
   198 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   34 mg/dL
   103 mEq/L
   133 mEq/L
   23.3 %
   6.6 K/uL
        [image002.jpg]
                            [**2148-12-3**]  04:40 AM
                            [**2148-12-3**]  04:51 AM
                            [**2148-12-3**]  09:24 AM
                            [**2148-12-3**]  04:38 PM
                            [**2148-12-4**]  02:51 AM
                            [**2148-12-4**]  03:10 PM
                            [**2148-12-5**]  01:30 AM
                            [**2148-12-5**]  07:27 AM
                            [**2148-12-5**]  03:47 PM
                            [**2148-12-6**]  02:18 AM
   WBC
   10.4
   8.8
   6.8
   6.6
   Hct
   23.0
   22.8
   18.9
   24.2
   23.4
   25.2
   23.4
   23.3
   Plt
   155
   119
   112
   150
   Cr
   2.9
   3.0
   2.9
   2.4
   2.0
   TCO2
   29
   27
   Glucose
   67
   118
   129
   135
   198
   Other labs: PT / PTT / INR:12.1/28.5/1.0, ALT / AST:100/57, Alk Phos /
   T Bili:30/0.6, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.1 g/dL, LDH:246 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PANCREATITIS, ACUTE
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-12-2**] 03:20 AM
   PICC Line - [**2148-12-4**] 01:00 PM
   Dialysis Catheter - [**2148-12-4**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2148-12-06 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Minoxidil added to BP regimen, but remains hypertensive with systolic
   requiring nitro gtt.
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Piperacillin - [**2148-12-4**] 05:30 AM
   Infusions:
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2148-12-5**] 08:00 AM
   Other medications:
   Changes to medical and family history: None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 104 (99 - 113) bpm
   BP: 168/56(92) {146/46(77) - 218/73(126)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                    773 mL
                                                                    317 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                    753 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    560 mL
   Urine:
                                                                  2,930 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,157 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen:  Lying in bed, awake, alert, NAD.
   HEENT:  Surgical pupil on right, left pupil reactive to light.
   CV:  RRR, no mrg appreciated.
   Resp:  CTAB, no w/r/r.
   Abd:  +BS, soft, NT, ND.
   Ext:  No c/c/e, no e/o femoral hematoma.
   Labs / Radiology
   150 K/uL
   8.0 g/dL
   198 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   34 mg/dL
   103 mEq/L
   133 mEq/L
   23.3 %
   6.6 K/uL
        [image002.jpg]
                            [**2148-12-3**]  04:40 AM
                            [**2148-12-3**]  04:51 AM
                            [**2148-12-3**]  09:24 AM
                            [**2148-12-3**]  04:38 PM
                            [**2148-12-4**]  02:51 AM
                            [**2148-12-4**]  03:10 PM
                            [**2148-12-5**]  01:30 AM
                            [**2148-12-5**]  07:27 AM
                            [**2148-12-5**]  03:47 PM
                            [**2148-12-6**]  02:18 AM
   WBC
   10.4
   8.8
   6.8
   6.6
   Hct
   23.0
   22.8
   18.9
   24.2
   23.4
   25.2
   23.4
   23.3
   Plt
   155
   119
   112
   150
   Cr
   2.9
   3.0
   2.9
   2.4
   2.0
   TCO2
   29
   27
   Glucose
   67
   118
   129
   135
   198
   Other labs: PT / PTT / INR:12.1/28.5/1.0, ALT / AST:100/57, Alk Phos /
   T Bili:30/0.6, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.1 g/dL, LDH:246 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Patient is an 82 year old Vietnamese man w/ hx of DM, HTN, stage 4 CKD
   s/p PEA arrest in the setting of hyperkalemia now w/enterococcus UTI,
   currently stable.
   # Hypertension :  Currently on losartan, hydralazine, imdur, minoxidil
   and remains hypertensive requiring nitro gtt.
   -avoiding nodal blockade in the setting of recent bradycardia
   -increasing dose of hydralazine to 75mg q6h
   -increasing imdur to 90mg daily
   -wean nitro gtt as able
   -increase minoxidil prn q3days (slow uptitration)
   -was on lasix at home and still making good urine; will clarify need
   for continued HD as below and if not going to have scheduled HD, will
   add back to regimen.
   # HCT drop: in the setting of self d/c of fem line.  CT scan without
   e/o RPB and no evidence of active bleeding from different source such
   as GI.  Hct stable after last transfusion on [**12-4**] (Required 2 units
   PRBCs total).
   -continue to monitor hct and exam for groin hematoma
   # Enterococcus UTI:   Sensitive to ampicillin which we have started.
   # CKD: Secondary to DM/HTN.  Underlying cause of hyperkalemia on
   presentation.  Electrolytes and volume status have been stable, last HD
   session on [**11-4**].
   - renal following
   - d/w team need for ongoing outpatient HD
   # DM: Patient on glyburide as an outpatient.
   - RISS, has had hypoglycemia, continue to monitor w/QID FS
   ICU Care
   Nutrition:
   Glycemic Control:  ISS.
   Lines:
   Arterial Line - [**2148-12-2**] 03:20 AM
   PICC Line - [**2148-12-4**] 01:00 PM
   Dialysis Catheter - [**2148-12-4**] 01:30 PM
   Prophylaxis:
   DVT:  Previously had elevated PTT to 50s range on SC heparin alone so
   held in setting of femoral line bleed.  Will restart [**Hospital1 **] in am if hct
   stable.
   Code status:   FULL.
   Disposition:  ICU pending improvement in BP.

2148-12-07 09:20:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   Nitro gtt off ~3 AM.
   History obtained from Overnight resident
   Patient unable to provide history: Language barrier
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-7**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 101 (96 - 109) bpm
   BP: 153/55(84) {136/44(74) - 179/66(100)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56 kg
             Total In:
                                                                  1,566 mL
                                                                    292 mL
   PO:
                                                                    640 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    926 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    555 mL
   Urine:
                                                                  1,675 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -109 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: JVP ~9cm
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases BL, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   186 K/uL
   8.7 g/dL
   131 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   34 mg/dL
   105 mEq/L
   134 mEq/L
   24.5 %
   7.7 K/uL
        [image002.jpg]
                            [**2148-12-3**]  04:51 AM
                            [**2148-12-3**]  09:24 AM
                            [**2148-12-3**]  04:38 PM
                            [**2148-12-4**]  02:51 AM
                            [**2148-12-4**]  03:10 PM
                            [**2148-12-5**]  01:30 AM
                            [**2148-12-5**]  07:27 AM
                            [**2148-12-5**]  03:47 PM
                            [**2148-12-6**]  02:18 AM
                            [**2148-12-7**]  03:18 AM
   WBC
   8.8
   6.8
   6.6
   7.7
   Hct
   22.8
   18.9
   24.2
   23.4
   25.2
   23.4
   23.3
   24.5
   Plt
   119
   112
   150
   186
   Cr
   3.0
   2.9
   2.4
   2.0
   1.9
   TCO2
   29
   27
   Glucose
   118
   129
   135
   198
   131
   Other labs: PT / PTT / INR:12.0/31.2/1.0, ALT / AST:100/57, Alk Phos /
   T Bili:30/0.6, Amylase / Lipase:1485/68, Differential-Neuts:82.4 %,
   Lymph:10.7 %, Mono:5.3 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.1 g/dL, LDH:246 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Patient is an 82 year old Vietnamese man w/ hx of DM, HTN, stage 4 CKD
   s/p PEA arrest in the setting of hyperkalemia now w/enterococcus UTI,
   currently stable.
   # Hypertension :  Currently on losartan, hydralazine, imdur, minoxidil
   and remains hypertensive requiring nitro gtt.
   -avoiding nodal blockade in the setting of recent bradycardia
   -increasing dose of hydralazine to 75mg q6h
   -increasing imdur to 90mg daily
   -wean nitro gtt as able
   -increase minoxidil prn q3days (slow uptitration)
   -was on lasix at home and still making good urine; will clarify need
   for continued HD as below and if not going to have scheduled HD, will
   add back to regimen.
   # Anemia: had HCT drop in the setting of self d/c of fem line.  CT scan
   without e/o RPB and no evidence of active bleeding from different
   source such as GI.  Hct stable after last transfusion on [**12-4**] (2 units
   PRBCs). Iron studies normal in [**9-18**]. Hemolysis labs negative here.
   -continue to monitor hct and exam for groin hematoma
   # Enterococcus UTI:   continue ampicillin day [**2-16**].
   # CKD: Secondary to DM/HTN.  Underlying cause of hyperkalemia on
   presentation.  Electrolytes and volume status have been stable, last HD
   session on [**11-4**].
   - renal following
   - d/w team need for ongoing outpatient HD
   # DM: Patient on glyburide as an outpatient.
   - RISS, has had hypoglycemia, continue to monitor w/QID FS
   ICU Care
   Nutrition: cardiac, renal diet
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2148-12-2**] 03:20 AM
   PICC Line - [**2148-12-4**] 01:00 PM
   Dialysis Catheter - [**2148-12-4**] 01:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Code status: Full
   Disposition: c/o to floor today